US05094681
58 g (0.5 mol) of ethyl acetate are rapidly added dropwise to a solution of 13.5 g (0.25 mol) of sodium methylate in 100 ml of methanol, at 30°-35° C. After the mixture is stirred for a short while (20 minutes), 50 g (0.25 mol) of 3-bromobenzyl bromide are added dropwise at 30° C. After the exothermic reaction has ceased, the mixture is heated at the boil for another 4 hours, and the solvent is subsequently distilled off. The residue is treated with 200 ml of water, and the mixture is extracted 3 times with 75 ml of ether. The combined organic phases are dried over sodium sulphate and freed from the solvent. Fractionation of the residue gives 56.0 g (0.20 mol, 80% of theory) of methyl 2-(3-bromobenzyl)acetoacetate of boiling point 105° C./0.1 torr).

reactant | ethyl acetate | 0.5 mol, 58 g | C(C)(=O)OCC | C4H8O2
reactant | sodium methylate | 0.25 mol, 13.5 g | C[O-].[Na+]
reactant | 3-bromobenzyl bromide | 0.25 mol, 50 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | methanol | 100 ml | CO | CH4O
product | methyl 2-(3-bromobenzyl)acetoacetate | 0.20 mol, 56.0 g, 80% | BrC=1C=C(CC(C(=O)OC)C(=O)C)C=CC1 | C12H13BrO3
